US04122183
2-(N-Butylamino)-4-phenyloxazole
The procedure as described in Example 1 was followed using phenacyl alcohol and butylcyanamide. A colourless oil was obtained after distillation of the product. Wt. = 5.0 g., 47% Yield. b.p. 134° C/0.1 mm., which crystallised on standing. The analytical sample which separated as needles from petrol (40°-60° C) had m.p. 52°-53° C.

reactant | phenacyl alcohol | C(C(=O)C1=CC=CC=C1)O | C8H8O2
reactant | butylcyanamide | C(CCC)NC#N | C5H10N2
product | 2-(N-Butylamino)-4-phenyloxazole | 47% Yield | C(CCC)NC=1OC=C(N1)C1=CC=CC=C1 | C13H16N2O
